US07071201B2
Example 173: Synthesis of 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-(1-methylpyrrol-2-yl)indoline
1-[1-(4-Fluorophenethyl)piperidin-4-yl]-6-bromoindoline (0.1 g) and 1-methyl-2-tributylstannylpyrrole (0.37 g) synthesized in accordance with the method described in Tetrahedron Lett., 4407 (1986). were treated as in Production Example 13-2 to give the title compound (0.016 g) as a yellow oil (yield: 15.8%).

reactant | 1-[1-(4-Fluorophenethyl)piperidin-4-yl]-6-bromoindoline | 0.1 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)Br)C=C1 | C21H24BrFN2
reactant | 1-methyl-2-tributylstannylpyrrole | 0.37 g | CN1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
product | 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-(1-methylpyrrol-2-yl)indoline | 0.016 g, yield: 15.8% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)C=2N(C=CC2)C)C=C1 | C26H30FN3
